* /Users/sunnymac/Desktop/Project-Inverter/Spice_Files/filter_v0p0.asc
XU1 0 N001 vdd 0 vo1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 vin 3k
R2 vo1 N001 1k
C1 vo1 N001 20µ
V1 vin 0 PULSE(-6 6 0 1n 1n 10m 20m 50)
R3 vout 0 100Meg
XU2 0 N002 vdd 0 N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N002 vo1 3k
R5 N003 N002 10k
C2 N003 N002 2µ
XU3 0 N004 vdd 0 vout level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N004 N003 1k
R7 vout N004 30k
V2 vdd 0 12
.tran 500m
.lib UniversalOpAmp1.lib
.backanno
.end
