* /Users/sunnymac/Desktop/Project-Inverter/Spice_Files/single-phase-inverter_v0p0.asc
S1 vout1 vdc s1 0 sw SW
S2 0 vout1 s2 0 sw SW
C1 vdc vout2 1m Rser=1m Rpar=10Meg
C2 vout2 0 1m Rser=1m Rpar=10Meg
V1 vdc 0 12 Rser=1m
R1 vout1 vout2 100Meg
V2 s2 0 PULSE(0 5 0 1n 1n 10m 20m 5)
A1 s2 0 0 0 0 s1 0 0 BUF VHIGH = 5
.model sw sw(Ron=1m Roff=1Meg Vt=0.5 Vh=0.1)
.tran 0.1
.backanno
.end
