* /Users/sunnymac/Desktop/Project-Inverter/Spice_Files/single-phase-inverter_v0p1.asc
S1 vout1 vdc s1 0 sw SW
S2 0 vout1 s2 0 sw SW
C1 vdc vout2 1m Rser=1m Rpar=10Meg
C2 vout2 0 1m Rser=1m Rpar=10Meg
V1 vdc 0 12 Rser=1m
R1 vout1 vout2 100Meg
V2 s2 0 PULSE(0 5 0 1n 1n 10m 20m 5)
A1 s2 0 0 0 0 s1 0 0 BUF VHIGH = 5
XU1 vout1 vp vdc 0 vp level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
L1 vn vp 1m Rser=1m
L2 0 vo1 1.6 Rser=1m
R2 vo1 0 10k
XU2 vout2 vn vdc 0 vn level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model sw sw(Ron=1m Roff=1Meg Vt=0.5 Vh=0.1)
.tran 0.1
K L1 L2 1
.lib UniversalOpAmp1.lib
.backanno
.end
