* /Users/sunnymac/Desktop/Project-Inverter/Spice_Files/single-phase-inverter_v0p2.asc
S1 vout1 vdc s1 0 sw SW
S2 0 vout1 s2 0 sw SW
C1 vdc vout2 1m Rser=1m Rpar=10Meg
C2 vout2 0 1m Rser=1m Rpar=10Meg
V1 vdc 0 12 Rser=1m
V2 s2 0 PULSE(0 5 0 1n 1n 10m 20m 500)
A1 s2 0 0 0 0 s1 0 0 BUF VHIGH = 5
XU1 vout1 N007 vdc 0 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
L1 vn vp 10µ Rser=1m
L2 0 vo1 18m Rser=1m
R2 vo1 0 10Meg
XU2 vout2 vn vdc 0 vn level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 vn N001 vdc 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 N007 3k
R4 N002 N001 1k
C3 N002 N001 20µ
XU4 vn N003 vdc 0 N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N003 N002 3k
R6 N004 N003 10k
C4 N004 N003 2µ
XU5 vn N005 vdc 0 N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R7 N005 N004 1k
R8 N006 N005 30k
XU6 N006 vp vdc 0 vp level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model sw sw(Ron=1m Roff=1Meg Vt=0.5 Vh=0.1)
.tran 1
K L1 L2 1
* 2nd Order LPF
.lib UniversalOpAmp1.lib
.backanno
.end
